US07648989B2
Preparation of (2-Chloro-7-methoxy-naphthalen-1-yl)-acetic acid ethyl ester
A mixture of [2-Chloro-7-methoxy-3,4-dihydro-2H-naphthalen-(1E/Z)-ylidene]-acetic acid ethyl ester and of (2-Chloro-7-methoxy-3,4-dihydro-naphthalen-1-yl)-acetic acid ethyl ester (26.82 g, 95.52 mmol) is dissolved under an atmosphere of argon in dioxane (280 ml). 2,3-Dichloro-5,6-dicyano-p-benzoquinone (DDQ, 47.70 g, 210.16 mmol) is added, and the reaction mixture is refluxed for 2 h. TLC analysis indicates complete conversion of starting material. After cooling to RT, addition of MeOH renders the reaction mixture homogeneous. Silica gel (250 g) is added, and the solvent is removed by rotary evaporation. Purification by FCC (hexane/EtOAc 9:1) yields the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.24 (t, J=8.8 Hz, 3H), 3.95 (s, 3H), 4.19 (q, J=8.8 Hz, 2H), 4.28 (s, 2H), 7.16-7.19 (m, 1H), 7.22 (s, 1H), 7.38 (d, J=10 Hz, 1H), 7.68 (d, J=10 Hz, 1H), 7.75 (d, J=10 Hz, 1H). ES+−MS: 279.2, 281.2 [M+H]+.

reactant | (2-Chloro-7-methoxy-3,4-dihydro-naphthalen-1-yl)-acetic acid ethyl ester | 95.52 mmol, 26.82 g | C(C)OC(CC1=C(CCC2=CC=C(C=C12)OC)Cl)=O | C15H17ClO3
reactant | 2,3-Dichloro-5,6-dicyano-p-benzoquinone | 210.16 mmol, 47.70 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | MeOH | CO | CH4O
solvent | dioxane | 280 ml | O1CCOCC1 | C4H8O2
product | (2-Chloro-7-methoxy-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC=C(C=C12)OC)Cl)=O | C15H15ClO3
